US04650865
Example 14: Lauryloxyethyl diethylamine
140.6 grams (1.2 moles) of diethyl ethanolamine, 48 grams (1.2 moles) of sodium hydroxide and 288.4 grams (1 mole) of lauryl sulfate, Na salt were reacted under a nitrogen atmosphere using the procedure of Example 9. Approx. 20 grams of the diethyl ethanolamine evaporated from the reaction with water during the reaction and was immediately replaced. After a reaction time of 2 hours at 190° C., followed by cooling to 20° C., the reaction mixture was purified using the procedure of Example 2. 168 grams of an oily liquid having an amine number of 151 were obtained.

reactant | diethyl ethanolamine | 1.2 moles, 140.6 grams | C(C)N(CCO)CC | C6H15NO
reactant | sodium hydroxide | 1.2 moles, 48 grams | [OH-].[Na+]
reactant | lauryl sulfate | 1 mole, 288.4 grams | S(=O)(=O)(OCCCCCCCCCCCC)[O-]
product | Lauryloxyethyl diethylamine | C(CCCCCCCCCCC)OCCN(CC)CC | C18H39NO
